US04012377
o-Nitrocinnamamidoxime (1.84 g.) was refluxed for 1 hr. in ethyl orthoformate (15 ml.) containing boron trifluoride etherate (4 drops). The mixture was refrigerated overnight and filtered to give trans-3-o-nitrostyryl-1,2,4-oxadiazole (1.24 g., 64%), m.p. 128°. Evaporation of the filtrate gave an additional 0.51 g. (26%) of the title compound. A sample recrystallised from aqueous acetone has m.p. 120°- 121°, λmax. 247 nm, ε 18900 (Found: C, 55.2; H, 3.3; N, 19.4. C10H7N3O3 requires C, 55.3; H, 3.25; N, 19.35%).

reactant | o-Nitrocinnamamidoxime | 1.84 g | [N+](=O)([O-])C1=C(C=CC(N)=NO)C=CC=C1 | C9H9N3O3
reactant | ethyl orthoformate | 15 ml | C(OCC)([O-])[O-]
catalyst | boron trifluoride etherate | 4 drops | B(F)(F)F.CCOCC
product | trans-3-o-nitrostyryl-1,2,4-oxadiazole | 1.24 g, 64% | [N+](=O)([O-])C1=C(/C=C/C2=NOC=N2)C=CC=C1 | C10H7N3O3
